US07220862B2
(±)-3-(6-Benzyloxy-pyridin-3-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
To a stirred solution of 2-amino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester (60 mg, 0.21 mmol) in methylene chloride (1 mL, 0° C.) was added carbonyl diimidazole (34 mg, 1.0 equiv.). After 15 min, a solution of 3-piperidin-4yl-3,4-dihydro-1H-quinazolin-2one (58 mg, 1.2 equiv.) in methylene chloride (0.5 mL) was added via canula. The ice bath was removed and stirring continued overnight. The reaction was concentrated and purified by column chromatography to give 59 mg (52%). Mass spec.: 544.49 (MH)+.

reactant | 2-amino-3-(6-benzyloxy-pyridin-3-yl)-propionic acid methyl ester | 0.21 mmol, 60 mg | COC(C(CC=1C=NC(=CC1)OCC1=CC=CC=C1)N)=O | C16H18N2O3
reactant | carbonyl diimidazole | 34 mg, 1.0 equiv. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4yl-3,4-dihydro-1H-quinazolin-2one | 58 mg, 1.2 equiv. | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(6-Benzyloxy-pyridin-3-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=NC(=CC1)OCC1=CC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C30H33N5O5
